Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Agitation
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
The patient is a ___ man with past medical history of
___ disease dementia, schizophrenia, hypertension,
hyperlipidemia and hypothyroidism who presents as a transfer 
from
his nursing facility (care wanted ___ with agitation and
altered mental status.  Per report from facility patient was
combative and agitated and was given Seroquel 25 mg p.o. x1  and
was brought to ___ for further evaluation. 
At ___,  he was noted to be calm and cooperative.   Noncon CT
head was performed and showed a hypodensity in the left thalamus
causing mild mass-effect possibly representing a subacute
hemorrhage versus a mass lesion.  Neurosurgery was consulted and
no intervention was deemed necessary.  Recommended neurology
consult for further evaluation. 

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. 

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits. 

 
Past Medical History:
- CHRONIC PARANOID SCHIZOPHRENIA (treated long-term with 
perphenazine, now discontinued)                  
- RHINITIS
- TREMOR
- HYPERLIPIDEMIA
- HYPERTENSION
- PARKINSONISM
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
==============
ADMISSION EXAM
==============
Physical Exam:
Vitals: T: 97.5 P: 85 r: 16  BP: 136/79 SaO2: 96% room air
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple
Pulmonary: no increased work of breathing
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented  and "___ ", 
daughter
was ___. to person.  unable to relate history. Language is
fluent. Pt was able to name all the objects on the stroke card,
was not able to name watch when knuckles. Able to read without
difficulty sentences on the stroke card. Speech was not
dysarthric. Able to follow both midline and appendicular
commands.

-Cranial Nerves:
I: Olfaction not tested.
II: Anisocoria left pupil bigger than right left pupil
nonreactive right pupil is small but reactive.  VFF to finger
wiggling 
III, IV, VI: Left exotropia,  EOMI except impaired downward gaze 

v: Facial sensation intact to light touch.
VII: facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

- Motor - Normal bulk. No drift.  mild
bilateral upper extremity cogwheeling rigidity. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   4+    5     5     5     5    5     4+     5     5    
 R   5     5     5     5     5    5     5     5     5    

-DTRs:  
Hyperreflexic in bilateral upper extremities, unable to elicit
reflexes in the lower extremities       

-Sensory: No deficits to light touch throughout.

-Coordination: Mild resting tremor in bilateral upper
extremities.  When asked to perform finger-nose patient touched
his mouth rather than his nose, he would also miss my finger but
he also did not look at my fingers. 

-Gait: Deferred 

==============
DISCHARGE EXAM
==============
Essentially unchanged. Mental status is calm, alert, answers 
most simple questions appropriately and with fluent (if 
dysarthric) language. 
 
Pertinent Results:
====
LABS
====
___ 02:47PM BLOOD WBC-4.9 RBC-4.44* Hgb-11.8* Hct-38.6* 
MCV-87 MCH-26.6 MCHC-30.6* RDW-16.2* RDWSD-50.7* Plt ___
___ 06:00AM BLOOD WBC-4.5 RBC-4.13* Hgb-11.0* Hct-35.9* 
MCV-87 MCH-26.6 MCHC-30.6* RDW-16.2* RDWSD-51.2* Plt ___
___ 09:50PM BLOOD WBC-5.4 RBC-4.16* Hgb-10.9* Hct-36.2* 
MCV-87 MCH-26.2 MCHC-30.1* RDW-16.2* RDWSD-51.0* Plt ___
___ 02:47PM BLOOD Neuts-48.5 ___ Monos-12.5 Eos-6.7 
Baso-0.4 Im ___ AbsNeut-2.37 AbsLymp-1.55 AbsMono-0.61 
AbsEos-0.33 AbsBaso-0.02
___ 09:50PM BLOOD Neuts-44.1 ___ Monos-9.7 Eos-7.8* 
Baso-0.6 Im ___ AbsNeut-2.37 AbsLymp-2.02 AbsMono-0.52 
AbsEos-0.42 AbsBaso-0.03
___ 02:47PM BLOOD Plt ___
___ 06:00AM BLOOD Plt ___
___ 09:50PM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-91 UreaN-12 Creat-0.8 Na-142 
K-3.7 Cl-105 HCO3-26 AnGap-15
___ 09:50PM BLOOD Glucose-104* UreaN-12 Creat-0.9 Na-144 
K-3.7 Cl-107 HCO3-25 AnGap-16
___ 06:00AM BLOOD ALT-<5 AST-14 AlkPhos-75 TotBili-0.8
___ 06:00AM BLOOD Calcium-8.5 Phos-3.4 Mg-2.0
___ 02:47PM BLOOD CRP-9.5*

=======
IMAGING
=======
___ non-contrast head CT
1.1 x 1.3 cm hyperdensity in the left thalamus is seen causing
mild mass-effect, possibly representing a subacute hemorrhage vs
mass lesion.  Of note, this hyperdensity was not seen on a prior
MR study in ___. 

___ CXR
No acute cardiopulmonary abnormality.  Moderate to large hiatal
hernia. 
 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with a history of 
schizophrenia, parkinsonism (secondary to long-term perphenazine 
use), hypertension, hyperlipidemia, and hypothyroidism who 
presented as a transfer from his nursing facility for agitation 
and altered mental status. ___ showed hyperdensity in the left 
thalamus, likely representing a developmental venous anomaly 
seen on previous MRI in ___. Urinalysis and chest X-ray were 
negative for infectious process. He did have an initial blood 
culture that was positive for strep viridans in one anaerobic 
bottle. This was likely a contaminant as his subsequent blood 
cultures were negative, he had no fevers, no murmurs suggestive 
of endocarditis, no dental caries (because adentulous), and a 
CRP that would be low for endocarditis or bacteremia. He was 
seen by psychiatry who cleared him for return to rehab, and 
recommended Seroquel 12.5mg Q8H PRN for agitation (to minimize 
extra-pyramidal side-effects. If he is unable to take oral 
neuroleptics, Zyprexa 0.5mg IM may be used. Psychiatry also 
contacted his outpatient psychiatrist, Dr. ___ will 
___ after discharge. He was discharged to his nursing 
facility with no other changes to his medications. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbidopa-Levodopa (___) 2 TAB PO TID 
2. Fluticasone Propionate NASAL 1 SPRY NU BID 
3. Simvastatin 10 mg PO QPM 
4. Docusate Sodium 100 mg PO DAILY 

 
Discharge Medications:
1.  QUEtiapine Fumarate 12.5 mg PO Q8H:PRN Agitation  
2.  Carbidopa-Levodopa (___) 2 TAB PO TID  
3.  Docusate Sodium 100 mg PO DAILY  
4.  Fluticasone Propionate NASAL 1 SPRY NU BID  
5.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Agitation

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of agitation resulting 
from your pre-existing diagnosis of schizophrenia. We found no 
organic cause for your agitation. You did not show any signs of 
infection such as pneumonia or UTI. Your blood counts were 
normal. 

You were seen by our psychiatrists who recommended Seroquel 
12.5mg EVERY 8 HOURS AS NEEDED for agitation. 

We spoke with your psychiatrist, Dr. ___ will see you 
after you return to your rehab facility and possibly restart 
some of your medications that will help with agitation. 

We are changing your medications as follows:
- Seroquel 12.5mg Q8H AS NEEDED for agitation
- Zyprexa 0.5mg IM AS NEEDED for agitation if unable to take 
oral medications. 

Please take your other medications as prescribed.
Please followup with your primary care physician.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). 
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___